US04863920
3.90 g (11.5 mmol) of 4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux for 5 hours with 0.67 g (12 mmol) of propargyl alcohol, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 10 mg of copper(I) iodide in 30 ml of diethylamine. The solvent was then evaporated, the residue was taken up in methylene chloride, the solid was filtered off and rinsed with ethyl acetate. After drying there was obtained 4,5-dihydro-3-(3-hydroxy-1-propynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 240°-241°.

reactant | 4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 11.5 mmol, 3.90 g | IC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C12H10IN3O
reactant | propargyl alcohol | 12 mmol, 0.67 g | C(C#C)O | C3H4O
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | 4,5-dihydro-3-(3-hydroxy-1-propynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | OCC#CC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H13N3O2
